US07906654B2
N-{1-[4-(1-Cyanocyclobutyl)phenyl]ethyl}-2-(6,7-difluoro-1H-benzimidazol-1-yl)acetamide is synthesized according to example 5 by mixing (6,7-difluoro-1H-benzimidazol-1-yl)acetic acid (212 mg, 1.00 mmol) prepared according to scheme 2,1-[4-(1-aminoethyl)phenyl]cyclobutanecarbonitrile (200 mg, 1.00 mmol) prepared according to scheme 9, Et3N (304 mg, 3.00 mmol, 0.418 mL) and HATU (280 mg, 1.00 mmol) in MeCN (10.0 mL). The product is purified by HPLC: Gilson prep pumps, Flow rate: 30 ml/min, Column: Gemini (5μ) 21.2×50 mm, Mobile phase: A=water (10 mM NH4CO3) B=MeCN, (220 mg, 0.558 mmol, 56%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.39 (d, J=7.03 Hz, 3H) 1.91-2.05 (m, 1H) 2.16-2.34 (m, 1H) 2.53-2.64 (m, 2H) 2.66-2.78 (m, 2H) 4.87-5.01 (m, 1H) 5.07 (s, 2H) 7.11-7.31 (m, 1H) 7.33-7.49 (m, 5H) 8.19 (s, 1H) 8.84 (d, J=7.81 Hz, 1H); MS [M+H], calcd: 395.0, found: 395.2.

reactant | (6,7-difluoro-1H-benzimidazol-1-yl)acetic acid | 1.00 mmol, 212 mg | FC=1C=CC2=C(N(C=N2)CC(=O)O)C1F | C9H6F2N2O2
reactant | Et3N | 3.00 mmol, 0.418 mL, 304 mg | CCN(CC)CC | C6H15N
reactant | HATU | 1.00 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | 10 mM | O | H2O
solvent | MeCN | 10.0 mL | CC#N | C2H3N
solvent | MeCN | 0.558 mmol, 220 mg | CC#N | C2H3N
product | N-{1-[4-(1-Cyanocyclobutyl)phenyl]ethyl}-2-(6,7-difluoro-1H-benzimidazol-1-yl)acetamide | C(#N)C1(CCC1)C1=CC=C(C=C1)C(C)NC(CN1C=NC2=C1C(=C(C=C2)F)F)=O | C22H20F2N4O
